US09065150B2
A 1-L flask equipped with a stirrer, a dropping funnel, a thermometer, a condenser tube, and a nitrogen gas inlet was charged with 50 parts of heptaethylene glycol vinyl ether and 11 parts of sodium hydroxide. The flask was heated to 40° C. with stirring under a nitrogen atmosphere, and then 40 parts of methyl iodide was slowly dropped while the internal temperature was maintained at 40° C. or lower. After completion of the dropping, the mixture was aged for five hours, and distilled under reduced pressure so that unreacted methyl iodide was removed. In order to further remove sodium hydroxide in excess and water and sodium iodide generated after the reaction, adsorption treatment was performed using an adsorbent, and thereby heptaethylene glycol methyl vinyl ether was obtained.

reactant | heptaethylene glycol vinyl ether | C(=C)OCCOCCOCCOCCOCCOCCOCCO | C16H32O8
reactant | sodium hydroxide | [OH-].[Na+]
reactant | methyl iodide | CI | CH3I
product | heptaethylene glycol methyl vinyl ether | C(=C)OCCOCCOCCOCCOCCOCCOCCOC | C17H34O8
